US05885990
Preparation of 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol.hydrochloride:
600 Milliliters of anhydrous methanol was added to 29.8 g of 6-cyano-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol, and dry hydrogen chloride gas was passed through the solution under cooling with ice and stirring to saturate the solution with hydrogen chloride gas, followed by further stirring for 24 hours under cooling with water. The reaction mixture was added dropwise to 3.0 liters of anhydrous methanol, followed by stirring for 1 hour under cooling with ice and the precipitate was collected by filtration. This was added to a solution prepared by passing dry ammonia gas through 240 ml of anhydrous methanol under cooling with ice and stirring to saturate the methanol with the gas, followed by stirring for 96 hours under cooling with water. The precipitate was collected by filtration and washed with 150 ml of methanol, 100 ml of water and 100 ml of acetone. To this collected precipitate was added 100 ml of a methanol solution saturated with dry hydrogen chloride gas, followed by stirring for 2 hours under cooling with ice. The precipitate was collected by filtration and washed with a small amount of diisopropyl ether to obtain a crude product. This was dissolved in 1.2 liter of 50% hydrous methanol and 10 g of active carbon was added thereto, followed by stirring for 1 hour at room temperature. Insoluble matter was filtered off and the filtrate was concentrated to 200 ml under reduced pressure. Then, the precipitate was collected by filtration and washed with small amounts of cold methanol and acetone to obtain 18.7 g of the desired product.

reactant | 6-cyano-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol | 29.8 g | C(#N)C=1C=C2C=CC(=C(C2=CC1)C(=O)OCC(N(C)C)=O)O | C16H14N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | 1.2 liter | CO | CH4O
solvent | methanol | 240 ml | CO | CH4O
product | 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol.hydrochloride | 18.7 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)C(=O)OCC(N(C)C)=O)O | InChI=1S/C16H17N3O4.ClH/c1-19(2)13(21)8-23-16(22)14-11-5-3-10(15(17)18)7-9(11)4-6-12(14)20;/h3-7,20H,8H2,1-2H3,(H3,17,18);1H
